US04332800
A solution of 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate acetone adduct (syn isomer) (1.0 g) in water (1 ml) was stood on for 5 days in a freezer at -20° C. A mixture of ice and precipitates was stood on at ambient temperature until the ice was melted. The resulting precipitates were collected by filtration, washed with water (0.3 ml) and dried in vacuo to give 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (0.52 g) as colorless needles, mp 165° to 170° C. (dec.).

reactant | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate acetone | 1.0 g | CC(=O)C.C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N
solvent | water | 1 ml | O | H2O
product | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 0.52 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N | C19H19N7O5S2
